US07091345B2
x) 2-Hydroxymethyl-7-nitro-1,4-benzodioxane
17.6 g 4-nitrocatechol and 11.0 g potassium bicarbonate were stirred in 200 ml DMF at 10° C. 13.99 g epibromohydrin in 10 ml DMF were added dropwise and stirring was continued at 60° C. for another 17 hrs. DMF was evaporated and the residue diluted with 50 ml water and extracted with ethyl acetate. The combined organic phases were washed with caustic soda and water., dried and evaporated. The crude oily product was heated to 90° C. with 200 ml toluene and the supernatant decanted from insoluble parts. After cooling to RT the solution is again decanted from insoluble oils and left at RT for 3 d. A first crop of 0.75 g crystalline title product was obtained. The mother liquor was evaporated and the residue dissolved in 20 dichloromethane at RT. Seeding and chilling to 0° C. yielded another 2.78 g crystalline title product.

reactant | 4-nitrocatechol | 17.6 g | [N+](=O)([O-])C=1C=C(C(O)=CC1)O | C6H5NO4
reactant | potassium bicarbonate | 11.0 g | C([O-])(O)=O.[K+]
reactant | epibromohydrin | 13.99 g | C(Br)C1CO1 | C3H5BrO
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-Hydroxymethyl-7-nitro-1,4-benzodioxane | 0.75 g | OCC1COC2=C(O1)C=C(C=C2)[N+](=O)[O-] | C9H9NO5
